US04977151
A Grignard compound synthesized from 1.0 g of magnesium and 10.0 g of 3-(2-phenylethyl)-bromobenzene in 30 ml of tetrahydrofuran was dropped at -60° C. under stirring for 3 min into 7.6 g of anhydrous acetic acid dissolved in 20 ml of tetrahydrofuran in a nitrogen atmosphere and stirred for further one hour. Then, the reaction solution was poured into a mixture of ice and an aqueous saturated solution of ammonium chloride and extracted with toluene. After separating the solution, it was washed with an aqueous 2N-solution of sodium hydroxide and saturated saline solution successively, dried over anhydrous sodium sulfate and then concentrated to solid. The residue was purified by silica gel column chromatography, using benzene/n-hexane (1:1) as an elute, to obtain 7.9 g of 1-(3-(2-phenylethyl)-phenyl)-ethanone as an oily product. Then, by using 5.0 g of the thus obtained acetophenone compound, 3.8 g of (Z)-2-(4-methylpiperazin-1-yl)-1-(3-(2-phenylethyl)-phenyl)-ethanone oxime hydrochloride with the melting point of from 185° to 188° C. (decomposition) and 0.5 g of (E)-2-(4-methylpiperazin-1-yl)-1-(3-(2-phenylethyl)-phenyl)-ethanone oxime with the melting point from 133° to 134° C. were obtained in the same manner as in Example 33.

reactant | magnesium | 1.0 g | [Mg] | Mg
reactant | 3-(2-phenylethyl)-bromobenzene | 10.0 g | C1(=CC=CC=C1)CCC=1C=C(C=CC1)Br | C14H13Br
reactant | acetic acid | 7.6 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(3-(2-phenylethyl)-phenyl)-ethanone | 7.9 g | C1(=CC=CC=C1)CCC=1C=C(C=CC1)C(C)=O | C16H16O
